US07820823B2
(3R,4R) and (3S,4S)-1-Benzyl-4-(tert-butoxycarbonylamino-methyl)-pyrrolidine-3-carboxylic Acid
To a solution of 2.9 (3R,4R) and (3S,4S)-1-benzyl-4-(tert-butoxycarbonylamino-methyl)-pyrrolidine-3-carboxylic acid ethyl ester (8.0 mmol) in 50 ml THF were added 671 mg lithium hydroxide mono hydrate (16 mmol) and 0.5 ml water. The solution was stirred at 40° C. and the reaction monitored by TLC. After 72 h the solvent was evaporated, the residue dissolved in dichloromethane, washed with water and brine, dried over Mg sulfate, filtered and evaporated. The residue was crystallized from a dichloromethane/hexane mixture.

reactant | (3S,4S)-1-benzyl-4-(tert-butoxycarbonylamino-methyl)-pyrrolidine-3-carboxylic acid ethyl ester | 8.0 mmol | C(C)OC(=O)[C@@H]1CN(C[C@@H]1CNC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C20H30N2O4
reactant | lithium hydroxide mono hydrate | 16 mmol, 671 mg | O.[OH-].[Li+]
reactant | water | 0.5 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3S,4S)-1-Benzyl-4-(tert-butoxycarbonylamino-methyl)-pyrrolidine-3-carboxylic Acid | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)CNC(=O)OC(C)(C)C)C(=O)O | C18H26N2O4
